US07820707B2
a) N-(4,5,6,7-Tetrahydro-benzo[b]thiophen-2-yl)-2-(3-trifluoromethyl-4,5,6,7-tetrahydro indazol-1-yl)-acetamide
2-[2-(3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid (200 mg, 0.47 mmol) and copper powder (45 mg, 0.70 mmol) were suspended in quinoline (4 mL) and the resulting mixture heated in a Biotage SmithCreator microwave at 200° C. for 10 min. The mixture was diluted with water (5 mL), acidified to pH 1 with 5 M HCl, and extracted with diethyl ether (3×50 mL). The combined organics were dried over sodium sulfate and concentrated in vacuo. The residue obtained was purified by silica gel chromatography using DCM as eluent, to afford the title compound as an off-white solid (170 mg, 0.44 mmol, 95%).

reactant | 2-[2-(3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid | 0.47 mmol, 200 mg | FC(C1=NN(C=2CCCCC12)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)O)(F)F | C19H20F3N3O3S
reactant | HCl | 5 M | Cl | ClH
solvent | quinoline | 4 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | water | 5 mL | O | H2O
catalyst | copper | 0.70 mmol, 45 mg | [Cu] | Cu
product | N-(4,5,6,7-Tetrahydro-benzo[b]thiophen-2-yl)-2-(3-trifluoromethyl-4,5,6,7-tetrahydro indazol-1-yl)-acetamide | 0.44 mmol, 170 mg, 95% | S1C2=C(C=C1NC(CN1N=C(C=3CCCCC13)C(F)(F)F)=O)CCCC2 | C18H20F3N3OS
